US04873356
A. [Hydroxy(4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester
To a well stirred solution of [hydroxy-(4-phenylbutyl)phosphinyl]acetic acid (prepared as described in Example 23 of U.S. Pat. No. 4,602,092) (422.5 g, 1.65 mole) in tetrahydrofuran (4700 ml, alumina purified) maintained at -5° C. to -10° C. was gradually added triethylamine (290 ml, 2.08 mole). This was then followed by the dropwise addition of a solution of benzylchloroformate (275 ml, 1.93 mole) in purified tetrahydrofuran (1320 ml). After removing the cooling bath, stirring was continued for three hours. After this time, the reaction mixture was filtered. The solids were washed with ethyl acetate (2×1000 ml). The combined filtrates were concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (4000 ml) and washed with water (2×1000 ml), 2.5% hydrochloric acid (2×600 ml) and brine (2×1000 ml). The organic phase was dried over magnesium sulfate, filtered and concentrated. The residue was triturated with 1:1 ether/hexane (2×500 ml) and collected by filtration. The solid was washed on the frit with 1:1 ether/hexane then dried in vacuo at 30° C. overnight to yield 509 g of colorless crystalline product m.p. 68°-70° C.

reactant | [hydroxy-(4-phenylbutyl)phosphinyl]acetic acid | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C12H17O4P
reactant | triethylamine | 2.08 mole, 290 ml | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 1.93 mole, 275 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | tetrahydrofuran | 4700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1320 ml | O1CCCC1 | C4H8O
product | [Hydroxy(4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester | 509 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C19H23O4P
